US05102897
3,5-Bis(1,1-dimethylethyl)-4-hydroxy-α-oxo-benzeneacetic acid
3,5-Bis(1,1-dimethylethyl)-4-hydroxy-α-oxo-benzeneacetic acid, methyl ester (20.0 g, 68.4 mmol) and LiOH (3.2 g, 439.1 mmol) are combined in 125 mL of a water-methanol-tetrahydrofuran mixture (1:1:1). The reaction warms to ca 50° C. and is maintained at this temperature using a heating bath for 5 hours under nitrogen atmosphere. The reaction is poured onto ice water and extracted with diethyl ether (3×). The cold aqueous layer is acidified with aqueous 12N HCl and extracted with diethyl ether (3×). The combined ethereal layers from the second extraction are washed with saturated aqueous NaCl, dried over Na2SO4, and concentrated in vacuo to give an oil. Crystallizing from diethyl ether/pentane gives 14.0 g of a first crop (mp 125°-126° C.) and 2.7 g as a second crop (mp 124°-125.5° C.). The total yield is 16.7 g (19.0 g theor., 88%).

reactant | 3,5-Bis(1,1-dimethylethyl)-4-hydroxy-α-oxo-benzeneacetic acid, methyl ester | 68.4 mmol, 20.0 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(C(=O)OC)=O | C17H24O4
reactant | LiOH | 439.1 mmol, 3.2 g | [Li+].[OH-]
solvent | water methanol tetrahydrofuran | 125 mL | O.CO.O1CCCC1
product | 3,5-Bis(1,1-dimethylethyl)-4-hydroxy-α-oxo-benzeneacetic acid | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(C(=O)O)=O | C16H22O4
